US08580841B2
Step F: Preparation of 2-(7-(4-(Cyclopropylmethoxy)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic acid.
To a solution of ethyl 2-(7-(4-(cyclopropylmethoxy)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (22.9 mg, 0.047 mmol) in dioxane was added 1M LiOH (0.188 mL, 0.188 mmol). The reaction mixture was stirred 3 h, taken up in EtOAc and washed with 1 M HCl. The EtOAc extract was dried over MgSO4 and concentrated. The residue was purified by preparative HPLC/MS to give the title compound as a solid. LCMS m/z=460.3 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.30-0.38 (m, 2H), 0.52-0.59 (m, 2H), 1.17-1.27 (m, 1H), 2.03-2.13 (m, 1H), 2.35 (dd, J=15.98, 8.91 Hz, 1H), 2.59-2.76 (m, 4H), 3.99 (d, J=6.69 Hz, 2H), 5.05 (s, 2H), 6.69 (dd, J=8.84, 2.40 Hz, 1H), 6.91 (d, J=2.53 Hz, 1H), 7.19 (d, J=8.72 Hz, 1H), 7.24 (d, J=8.46 Hz, 1H), 7.62-7.71 (m, 2H), 10.45 (s, 1H).

reactant | ethyl 2-(7-(4-(cyclopropylmethoxy)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.047 mmol, 22.9 mg | C1(CC1)COC1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1)C(F)(F)F | C27H28F3NO4
reactant | LiOH | 0.188 mmol, 1M, 0.188 mL | [Li+].[OH-]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(7-(4-(Cyclopropylmethoxy)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic acid | C1(CC1)COC1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=C1)C(F)(F)F | C25H24F3NO4
